US07473790B2
Step 2: Preparation of compound 1-{4-[2-(2-Cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-fluoro-phenyl}-cyclopropanecarbonitrile
The desired product was prepared analogously to step 4 of Example A(97), substituting 1-{4-[3-Cyclopentyl-4-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-3-hydroxy-but-1-ynyl]-2-fluoro-phenyl}-cyclopropanecarbonitrile [prepared analogously to step 3 of Example A(97) substituting 1-(4-bromo-2-fluoro-phenyl)-cyclopropanecarbonitrile in place of 2-(4-bromo-2-fluorophenyl)-2-methylpropanenitrile)] in place of 2-{4-[2-(2-cyclopentyl-4,6-dioxotetrahydro-2H-pyran-2-yl)ethyl]-2-fluorophenyl}-2-methylpropanenitrile. 1H NMR (CDCl3) δ: 1.27-1.30 (m, 2H), 1.51-1.73 (m, 10H), 1.84-1.89 (m, 2H), 2.19 (p, J=8.08 Hz, 1H), 2.58-2.71 (m, 4H), 3.36 (d, J=4.04 Hz, 2H), 6.81-6.86 (m, 2H), 7.16-7.18 (m, 1H). MS (ESI): 368 (M−H).

reactant | 1-{4-[3-Cyclopentyl-4-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-3-hydroxy-but-1-ynyl]-2-fluoro-phenyl}-cyclopropanecarbonitrile | C1(CCCC1)C(C#CC1=CC(=C(C=C1)C1(CC1)C#N)F)(CC=1OC(OC(C1)=O)(C)C)O | C25H26FNO4
reactant | 1-(4-bromo-2-fluoro-phenyl)-cyclopropanecarbonitrile | BrC1=CC(=C(C=C1)C1(CC1)C#N)F | C10H7BrFN
reactant | 2-{4-[2-(2-cyclopentyl-4,6-dioxotetrahydro-2H-pyran-2-yl)ethyl]-2-fluorophenyl}-2-methylpropanenitrile | C1(CCCC1)C1(OC(CC(C1)=O)=O)CCC1=CC(=C(C=C1)C(C#N)(C)C)F | C22H26FNO3
product | 1-{4-[2-(2-Cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-fluoro-phenyl}-cyclopropanecarbonitrile | C1(CCCC1)C1(OC(CC(C1)=O)=O)CCC1=CC(=C(C=C1)C1(CC1)C#N)F | C22H24FNO3
